US08975264B2
Step 3: Preparation of 2-(ethoxymethyl)-7-(4-fluorophenyl)-3-(4-methylphenyl)pyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 90)
3-(Ethoxymethyl)-4-(4-methylphenyl)-1H-pyrazol-5-amine (133 mg) and ethyl 3-(4-fluorophenyl)-3-oxopropanoate (0.2 mL) are stirred at 84° C. for 14 hours in a pyridine (10 mL) solvent. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and purified by column chromatography to yield 132 mg of the target compound. 1H NMR (CDCl3, 300 MHz): δ 10.08 (s, 1H), 7.98 (m, 2H), 7.28 (m, 4H), 7.13 (m, 2H), 4.43 (s, 2H), 4.04 (br, 1H), 3.50 (m, 2H), 2.35 (s, 3H), 1.06 (t, 3H).

reactant | 3-(Ethoxymethyl)-4-(4-methylphenyl)-1H-pyrazol-5-amine | 133 mg | C(C)OCC1=NNC(=C1C1=CC=C(C=C1)C)N | C13H17N3O
reactant | ethyl 3-(4-fluorophenyl)-3-oxopropanoate | 0.2 mL | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(ethoxymethyl)-7-(4-fluorophenyl)-3-(4-methylphenyl)pyrazolo[1,5-a]pyrimidin-5(4H)-one | 132 mg | C(C)OCC1=NN2C(NC(C=C2C2=CC=C(C=C2)F)=O)=C1C1=CC=C(C=C1)C | C22H20FN3O2
